US04977264
4,5-dichloro-6-ethylpyrimidine
A mixture of 3.19 g (0.020 mol) of 5-chloro-4-ethyl-6-hydroxypyrimidine, 15.33 g (0.10 mol) of phosphoryl chloride and 45 g of toluene was heated to 100° C. and stirred at this temperature for 80 minutes. The excess phosphoryl chloride and the toluene were distilled off and the residue was mixed with 30 ml of dichloromethane and 20 ml of water. The mixture was refluxed after 30 minutes, extracted with 3×30 ml of dichloromethane and dried on sodium sulfate. The dichloromethane solution was evaporated and the residue was distilled at 125° C./12 torr in the bulb tube apparatus. The following data concerns the product of this example:

reactant | 5-chloro-4-ethyl-6-hydroxypyrimidine | 0.020 mol, 3.19 g | ClC=1C(=NC=NC1O)CC | C6H7ClN2O
reactant | phosphoryl chloride | 0.10 mol, 15.33 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 45 g | C1(=CC=CC=C1)C | C7H8
product | 4,5-dichloro-6-ethylpyrimidine | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
